US05519138
b) 2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]benzyl]-6-(N-cyclohexylaminocarbonyl-methylamino)benzimidazole
Prepared analogously to Example 1b from 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-6-(N-cyclohexyl-aminocarbonylmethylamino)benzimidazole and 1N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-6-(N-cyclohexyl-aminocarbonylmethylamino)benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC)C=C(C=C2)N(C2CCCCC2)CC(=O)N | C36H44N4O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]benzyl]-6-(N-cyclohexylaminocarbonyl-methylamino)benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O)C=C(C=C2)N(C(=O)NC2CCCCC2)C | C34H40N4O4
